US06235771B1
A suspension of 7-methoxybenzofuran-2-carboxylicacid (11.04 g) and copper powder (1.83 g) in quinoline (200 ml) was refluxed under nitrogen atmosphere for 2 hours and cooled, and to the suspension was added 2N hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with 2N hydrochloric acid (8 times), water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography to give dark brown oil of 7-methoxybenzofuran (8.19 g).

reactant | 7-methoxybenzofuran-2-carboxylicacid | 11.04 g | COC1=CC=CC=2C=C(OC21)C(=O)O | C10H8O4
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | quinoline | 200 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 1.83 g | [Cu] | Cu
product | 7-methoxybenzofuran | 8.19 g | COC1=CC=CC=2C=COC21 | C9H8O2
